US07479574B2
Synthesis of (R)-3-methyl-1-cyclopentadecenyl propionate
To a 1,000 ml reaction flask 1.32 g (2.9 mmol) of an optically active ligand 4-(cis-2,6-dimethylpiperidine)-(R)-ditetra-hydronaphthodioxaphosphepin, 0.47 g (1.3 mmol) of Cu(OTf)2, 115 ml (230 mmol) of a dimethylzinc toluene solution (2.0 mol/L), and 524 g of xylene were added and cooled to −20° C. under a nitrogen atmosphere. Then, 20.6 g (158 mmol) of propionic anhydride and 32 g (144 mmol) of (2E)-cyclopentadecenone were added thereto dropwise over 3 hours. After dropwise addition, the mixture was stirred for 4 hours until completion of the reaction was determined by gas chromatographic analysis. The reaction was terminated by addition of an aqueous 5% sulfuric acid solution after completion of the reaction; the reaction solution was phase-separated and washed with water; and then, the solvent was evaporated under reduced pressure to give 43.2 g of a crude product. The concentrated solution was distilled (boiling point: 112° C./39.9 Pa) to give 39.4 g (134 mmol) of the title compound (yield: 93%). Gas chromatographic analysis gave E/Z =1.0/99.0.

reactant | dimethylzinc toluene | 230 mmol, 2.0 mol/L, 115 ml | C1(=CC=CC=C1)C.C[Zn]C
reactant | propionic anhydride | 158 mmol, 20.6 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | (2E)-cyclopentadecenone | 144 mmol, 32 g | C1(\C=C\CCCCCCCCCCCC1)=O | C15H26O
catalyst | Cu(OTf)2 | 1.3 mmol, 0.47 g | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Cu+2]
solvent | xylene | 524 g | C=1(C(=CC=CC1)C)C | C8H10
product | (R)-3-methyl-1-cyclopentadecenyl propionate | 134 mmol, 39.4 g, yield: 93% | C(CC)(=O)OC1=C[C@@H](CCCCCCCCCCCC1)C | C19H34O2
